US04347246
A. 3-Chloro-2-aminobenzoic acid
Sodium dithionite (104.4 g, 0.6 m) in water (400 ml) was added in portions to a slurry of 3-chloro-2-nitrobenzoic acid (30 g, 0.15 m) in water (200 ml) containing concentrated ammonium hydroxide solution (10 ml). After stirring an additional 20 minutes the mixture was filtered, acidified to pH 3-4 with concentrated hydrochloric acid and filtered again. The filtrate was saturated with sodium chloride and extracted with ether. Drying and concentration of the extract gave a white powder which was combined with the precipitates above. The crude product was used without further purification.

reactant | Sodium dithionite | 104.4 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 3-chloro-2-nitrobenzoic acid | 30 g | ClC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H4ClNO4
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | water | 400 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 3-Chloro-2-aminobenzoic acid | ClC=1C(=C(C(=O)O)C=CC1)N | C7H6ClNO2
